US04171318
Chromium trioxide (145 g., 1.45 mol) was added to 5 l. of methylene chloride in a 12 l. round bottomed flask fitted with an argon inlet and mechanical stirrer. Pyridine (230 ml., 2.9 mol) was added thereto and the resulting mixture was stirred for 2 hours. Celite (290 g.) and then E-4,4-dimethoxy-2-fluoro-3-methyl-buten-1-ol was added in one portion thereto and stirring continued for 30 minutes. The resulting mixture was filtered, evaporated at 30° C. to about 5% of its volume and diluted with 500 ml. of ether. The diluted mixture was filtered and evaporated to about 100 ml. at 30° C. to yield E-4,4-dimethoxy-2-fluoro-3-methyl-buten-1-al.

reactant | Pyridine | 2.9 mol, 230 ml | N1=CC=CC=C1 | C5H5N
reactant | E-4,4-dimethoxy-2-fluoro-3-methyl-buten-1-ol | COC(C(\C(=C/O)\F)C)OC | C7H13FO3
catalyst | Chromium trioxide | 1.45 mol, 145 g | [O-2].[O-2].[O-2].[Cr+6]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | E-4,4-dimethoxy-2-fluoro-3-methyl-buten-1-al | COC(/C(=C(\C=O)/F)/C)OC | C7H11FO3
